US07495015B2
A solution of 3-(2-Chloro-phenyl)-6-(2-fluoro-phenoxy)-indazole-1-carboxylic acid tert-butyl ester (90 mg, 0.2 mmol) and sodium methoxide (22 mg, 0.41 mmol) in methanol (2 mL) was stirred at room temperature for 1 h, and then concentrated under vacuum. The residue was diluted with EtOAc, washed with water, dried over Na2SO4 filtered, concentrated and the residue was purified by flash chromatography eluting with Hex:EtOAc 4:1 to yield 42 mg of 3-(2-Chloro-phenyl)-6-(2-fluoro-phenoxy)-1H-indazole: MS (M+H)+=339

reactant | 3-(2-Chloro-phenyl)-6-(2-fluoro-phenoxy)-indazole-1-carboxylic acid tert-butyl ester | 0.2 mmol, 90 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)OC1=C(C=CC=C1)F)C1=C(C=CC=C1)Cl | C24H20ClFN2O3
reactant | sodium methoxide | 0.41 mmol, 22 mg | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 3-(2-Chloro-phenyl)-6-(2-fluoro-phenoxy)-1H-indazole | 42 mg | ClC1=C(C=CC=C1)C1=NNC2=CC(=CC=C12)OC1=C(C=CC=C1)F | C19H12ClFN2O
